US07153854B2
To a solution of ethyl 5-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-(hydroxymethyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate (200 mg) and triethylamine (65.9 mg) in dichloromethane (2 mL) was added methanesulfonyl chloride (54.7 mg) under an ice-bath. After stirring for 1 hour, the reaction was quenched by adding 1N hydrochloric acid (1 mL). The mixrure was partitioned between ethyl acetate (20 mL) and 1N hydrochloric acid (5 mL). The organic layer was washed with saturated sodium bicarbonate and brine, dried over magnesium sulfate, and evaporated to give ethyl 5-(4-(5-bromo-3-pyridinyl)-7-ethyl-2-{[(methylsulfonyl)oxy]methyl}pyrrolo[1,2-b]pyridazin-3-yl)pentanoate as an yellow gum (247 mg).

reactant | ethyl 5-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-(hydroxymethyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 200 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCCCC(=O)OCC)CO)C(=CC2)CC | C22H26BrN3O3
reactant | triethylamine | 65.9 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 54.7 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | ethyl 5-(4-(5-bromo-3-pyridinyl)-7-ethyl-2-{[(methylsulfonyl)oxy]methyl}pyrrolo[1,2-b]pyridazin-3-yl)pentanoate | 247 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCCCC(=O)OCC)COS(=O)(=O)C)C(=CC2)CC | C23H28BrN3O5S
